US06891066B2
Methyl 3,4-difluoro-2-[2-fluoro-4-(2-hydroxyethyl)anilino]benzoate was deprotected using EtOH/1 M NaOH as above to afford 3,4-difluoro-2-[2-fluoro-4-(2-hydroxyethyl)anilino]benzoic acid as a crystalline cream solid (93%); m.p. (EtOAc/hexane) 196-200° C. 1H NMR [400 MHz, (CD3)2SO] δ 13.67 (v br s, 1 H), 9.28 (br s, 1 H), 7.80 (ddd, J=8.4, 6.1, 1.8 Hz, 1 H), 7.13-6.93 (m, 4 H), 4.65 (br s, 1 H), 3.63-3.55 (br m, 2 H), 2.69 (t, J=6.8 Hz, 2 H). Anal. calcd. for C15H12F3NO3: C, 57.9; H, 3.9; N, 4.5. Found C, 58.3; H, 4.1; N, 4.7.

reactant | Methyl 3,4-difluoro-2-[2-fluoro-4-(2-hydroxyethyl)anilino]benzoate | FC=1C(=C(C(=O)OC)C=CC1F)NC1=C(C=C(C=C1)CCO)F | C16H14F3NO3
solvent | EtOH | 1 M | CCO | C2H6O
product | 3,4-difluoro-2-[2-fluoro-4-(2-hydroxyethyl)anilino]benzoic acid | 93% | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)CCO)F | C15H12F3NO3
